US07514448B2
Preparation of N-(4-(1H-pyrrolo[2,3-b]pyridin-3-yl)thiophen-2-yl)-2-(3-methoxyphenyl)acetamide
4-[1-(Toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-thiophen-2-ylamine was coupled to 3-methoxyphenylacetic acid according to General Method B and the product 2-(3-methoxyphenyl)-N-(4-(1-tosyl-1H-pyrrolo[2,3-b]pyridin-3-yl)thiophen-2-yl)acetamide (70 mg, 0.14 mmol) was dissolved in 6 mL THF and LiOH hydrate (63 mg, 1.5 mmol) was added in 1 mL of water. The reaction mixture was heated to 150° C. by microwave irradiation for 15 minutes and then diluted with EtOAc and water and the organic layer dried over sodium sulfate and concentrated to an oil, which was purified by column chromatography on silica (40 to 100% EtOAc/hexanes to give 20 mg of a light brown solid, 0.055 mmol, 39%. 1H NMR 500 MHz (DMSO-d6) 11.80 (1H, s), 11.37 (1H, s) 8.28 (2H, m), 7.78 (1H, s), 7.25 (1H, t), 7.16 (2H, m), 7.07 (1H, s) 6.88 (2H, m), 6.82 (1H, m), 3.78 (3H, s), 3.69 (2H, s). MH+ 364.20.

reactant | 4-[1-(Toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-thiophen-2-ylamine | C1(=CC=C(C=C1)S(=O)(=O)N1C=C(C=2C1=NC=CC2)C=2C=C(SC2)N)C | C18H15N3O2S2
reactant | 3-methoxyphenylacetic acid | COC=1C=C(C=CC1)CC(=O)O | C9H10O3
reactant | 2-(3-methoxyphenyl)-N-(4-(1-tosyl-1H-pyrrolo[2,3-b]pyridin-3-yl)thiophen-2-yl)acetamide | 0.14 mmol, 70 mg | COC=1C=C(C=CC1)CC(=O)NC=1SC=C(C1)C1=CN(C2=NC=CC=C21)S(=O)(=O)C2=CC=C(C)C=C2 | C27H23N3O4S2
reactant | LiOH hydrate | 1.5 mmol, 63 mg | O[Li].O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(4-(1H-pyrrolo[2,3-b]pyridin-3-yl)thiophen-2-yl)-2-(3-methoxyphenyl)acetamide | 20 mg | N1C=C(C=2C1=NC=CC2)C=2C=C(SC2)NC(CC2=CC(=CC=C2)OC)=O | C20H17N3O2S
